US05859255
A solution containing 4-ethylpyridine (12.8 g, 120 mmol) and iodine (30.5 g, 120 mmol) in CF2ClCFCl2 (150 ml) was placed in a fluorination apparatus fitted with a drying tube filled with soda lime. Elemental fluorine (165 mmol) as a 10% mixture in dry nitrogen was then passed through the stirred solution using narrow bore PTFE tubing at ca. 40 ml/min. After the fluorine had been added the solution was poured into 10% aqueous sodium metabisulfite solution (300 ml), neutralised with solid sodium bicarbonate and extracted with dichloromethane. The organic extracts were dried and evaporated to a yellow oil (9.54 g) which contained ethlpyridine (78 % conversion), 2-fluoropyridine and other minor products by GC/MS. The oil redissolved in dichloromethane and washed with 2N HCI solution, dried (MgSO4) and evaporated to a clear oil to give 2-fluoro-4-ethylpyridine in >95% purity (6.3 g, 54% based on 78% conversion); δH (200 MHz, CDCl3, Me4Si) 1.26 ppm (3H, t, J 7.6, CH3), 2.69 (2H, q, J 7.6, CH2), 6.75 (1H, s, H-3), 7.02 (1H, d m, J 5.1, H-5), 8.09 (1H, d, J 5.1, H-6); δC (50 MHz, CDCl3, Me4Si) 14.1 ppm (s, CH3), 28.2 (d, 4JC-F 2.7, CH2), 108.5 (d, 2JC-F 36.5, C-3), 121.3 (d, 4JC-F 3.9, C-5), 147.3 (d, 3JC-F 15.2, C-6), 159.3 (d, 3JC-F 7.8, C-4), 164.2 (d, 1JC-F 236.3, C-2); δF (235 MHz, CDCl3, CFC13) 69.9 ppm (s); m/z (E1+125 (M+, 100%), 110 (47), 97 (15), 83 (13).

reactant | 4-ethylpyridine | 120 mmol, 12.8 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | iodine | 120 mmol, 30.5 g | II | I2
reactant | fluorine | 165 mmol | FF | F2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium metabisulfite | 300 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 2-fluoro-4-ethylpyridine | FC1=NC=CC(=C1)CC | C7H8FN
